US07989480B2
{(S)-1-[(Acetoxy-acetyl-amino)-methyl]-2-[4-(4-chloro-phenoxy)-phenyl]-ethyl}-carbamic acid tert butyl ester
To a solution of {(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-hydroxyaminomethyl-ethyl}-carbamic acid tert-butyl ester (34 mg, 0.087 mmol, 1 eq.) in pyridine (2 ml) was added acetic anhydride (20 mg, 0.173 mmol, 2 eq.). And then the reaction mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into sodium bicarbonate solution (25 ml) and extracted with ethyl acetate (3×15 ml). The combined organics was washed with 1N HCl (3×15 ml). After dried over anhydrous MgSO4, solvent was removed under reduced pressure to give a residue, which was purified by chromatography on silica gel using EA/hexane (1:2 to 1:1) as eluent to give the desired product (44 mg, 100% yield) as gummy.

reactant | {(S)-2-[4-(4-chloro-phenoxy)-phenyl]-1-hydroxyaminomethyl-ethyl}-carbamic acid tert-butyl ester | 0.087 mmol, 34 mg, 1 eq. | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CNO)=O | C20H25ClN2O4
reactant | acetic anhydride | 0.173 mmol, 20 mg, 2 eq. | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | {(S)-1-[(Acetoxy-acetyl-amino)-methyl]-2-[4-(4-chloro-phenoxy)-phenyl]-ethyl}-carbamic acid tert butyl ester | 44 mg, 100% yield | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CN(C(C)=O)OC(C)=O)=O | C24H29ClN2O6
